US07696231B2
c) Preparation of 4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}-N-{3-[(trifluoromethyl)sulfonyl]phenyl}benzamide
Into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 4-(hydrazinocarbonyl)-N-{3-[(trifluoromethyl)sulfonyl]phenyl}benzamide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 80 mg of the title compound (76%) as a yellow solid in 76% purity by HPLC (Rt: 4.96, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 4-(hydrazinocarbonyl)-N-{3-[(trifluoromethyl)sulfonyl]phenyl}benzamide | N(N)C(=O)C1=CC=C(C(=O)NC2=CC(=CC=C2)S(=O)(=O)C(F)(F)F)C=C1 | C15H12F3N3O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}-N-{3-[(trifluoromethyl)sulfonyl]phenyl}benzamide | 80 mg, 76% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C(=O)NC2=CC(=CC=C2)S(=O)(=O)C(F)(F)F)C=C1 | C23H14F3IN4O5S
